US07666871B2
2-(4-Benzo[1,3]dioxol-5-yl-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole
The title compound is prepared in a manner substantially analogous to Example 35 starting from 3,4-Methylenedioxybenzene boronic acid and 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole. MS (m/e): 377.1 (M+1)

reactant | 3,4-Methylenedioxybenzene boronic acid | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
reactant | 2-(4-Bromo-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | BrC1=CC=C(C=C1)C=1OC(=C(N1)CCN1CCCC1)C | C16H19BrN2O
product | 2-(4-Benzo[1,3]dioxol-5-yl-phenyl)-5-methyl-4-(2-pyrrolidin-1-yl-ethyl)-oxazole | O1COC2=C1C=CC(=C2)C2=CC=C(C=C2)C=2OC(=C(N2)CCN2CCCC2)C | C23H24N2O3
